US08791139B2
Synthesis of 1-(3-chloropyridin-2-yl)-3-{[4-(trifluoromethoxy)phenyl]ethynyl}-1H-pyrazole-5-carboxylic acid
1.02 g (2.17 mmol) of methyl 1-(3-chloropyridin-2-yl)-3-{[4-(trifluoromethoxy)phenyl]ethynyl}-1H-pyrazole-5-carboxylate were dissolved in 20 ml of ethanol, 1.31 g (3.26 mmol) of 10% strength aqueous sodium hydroxide solution were added and the mixture was stirred at RT for 2 h. The solvent was distilled off under reduced pressure, the residue was taken up in water and the mixture was extracted once with methyl tert-butyl ether. The aqueous phase was then acidified with 2N hydrochloric acid and extracted three times with methyl tert-butyl ether. The combined organic phases were dried over sodium sulphate and concentrated.

reactant | methyl 1-(3-chloropyridin-2-yl)-3-{[4-(trifluoromethoxy)phenyl]ethynyl}-1H-pyrazole-5-carboxylate | 2.17 mmol, 1.02 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)C#CC1=CC=C(C=C1)OC(F)(F)F | C19H11ClF3N3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(3-chloropyridin-2-yl)-3-{[4-(trifluoromethoxy)phenyl]ethynyl}-1H-pyrazole-5-carboxylic acid | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)C#CC1=CC=C(C=C1)OC(F)(F)F | C18H9ClF3N3O3
